US05811432
A mixture of 3-amino-2-bis(ethoxycarbonyl)methyl-5-chloropyridine and 6N HCl (325 mL) was heated at reflux for 4 hours. After removing the aqueous acid in vacuo, the residue was taken up in water and filtered to remove a small amount of black insoluble material. On adjustment of the filtrate to pH 6.5 with solid NaHCO3, 6-chloro-4-azaoxindole precipitated as a tan solid (2.6 g) which was collected by filtration. The filtrate was extracted with ethyl acetate and the combined extracts were dried (MgSO4) and concentrated to yield an additional quantity of 6-chloro-4-azaoxindole (3.6 g). The total yield was thus 6.2 g (71% overall from 2,5-dichloro-3-nitropyridine).

reactant | 3-amino-2-bis(ethoxycarbonyl)methyl-5-chloropyridine | NC=1C(=NC=C(C1)Cl)C(C(=O)OCC)C(=O)OCC | C12H15ClN2O4
reactant | HCl | 6N, 325 mL | Cl | ClH
product | 6-chloro-4-azaoxindole | 3.6 g | ClC1=CN=C2CC(NC2=C1)=O | C7H5ClN2O
